US07176195B2
G3. Methyl 6-(tert-butyloxycarbonylaminomethyl)nicotinate
To a degassed solution of methyl 6-(azidomethyl)nicotinate from Example G2 (1.6 g, 8.30 mmol) in methanol (50 ml) was added 10% palladium-on-carbon (0.15 g). Hydrogen gas was bubbled through the mixture for 2 h at room temperature. The catalyst was removed by filtration through a pad of celite and the filtrate was evaporated in vacuo. The residue was dissolved in dichloromethane and cooled to 0° C. To this solution were added triethylamine (1.67 g, 16.0 mmol) and (BOC)2O (2.17 g, 9.96 mmol). The mixture was allowed to warm to room temperature and stirred for 18 h, then concentrated in vacuo. The residue was dissolved in EtOAc and washed with water, dried over MgSO4, and concentrated in vacuo. The residue was purified by flash chromatography on silica (eluant EtOAc:pet. ether 50:50) to give a yellow solid; yield 1.57 g (71%).

reactant | methyl 6-(azidomethyl)nicotinate | N(=[N+]=[N-])CC1=NC=C(C(=O)OC)C=C1 | C8H8N4O2
reactant | triethylamine | 16.0 mmol, 1.67 g | C(C)N(CC)CC | C6H15N
reactant | (BOC)2O | 9.96 mmol, 2.17 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium-on-carbon | 0.15 g | [Pd] | Pd
product | Methyl 6-(tert-butyloxycarbonylaminomethyl)nicotinate | C(C)(C)(C)OC(=O)NCC1=NC=C(C(=O)OC)C=C1 | C13H18N2O4
